US06645971B1
Preparation of 3-[1-(4-Cyanobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone
To a solution of 100 mg (0.32 mmol) of 3-(piperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone in 3 ml of methanol, 0.08 ml (0.32 mmol) of 4N hydrochloric acid/dioxane, 170 mg (1.3 mmol) of 4-cyanobenzaldehyde, 82 mg (1.3 mmol) of sodium cyanoborohydride were added subsequently under ice-cooling, and stirred at room temperature for 10 hours. Saturated aqueous sodium bicarbonate solution was added to the reaction mixture, followed by extracting with ethyl acetate, washing with water and saturated brine, and drying over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the obtained residue was purified by silica gel column chromatography (chloroform—2% methanol/chloroform) to give the title compound as colorless oil.

reactant | 3-(piperidin-4-yl)-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | 0.32 mmol, 100 mg | N1CCC(CC1)N1C(NC2=CC=CC=C2C1C1=CC=CC=C1)=O | C19H21N3O
reactant | hydrochloric acid dioxane | 0.32 mmol, 4N, 0.08 ml | Cl.O1CCOCC1
reactant | 4-cyanobenzaldehyde | 1.3 mmol, 170 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | sodium cyanoborohydride | 1.3 mmol, 82 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 3-[1-(4-Cyanobenzyl)piperidin-4-yl]-4-phenyl-3,4-dihydro-2(1H)-quinazolinone | C(#N)C1=CC=C(CN2CCC(CC2)N2C(NC3=CC=CC=C3C2C2=CC=CC=C2)=O)C=C1 | C27H26N4O
